
*AD5140 SPICE MACROMODEL
*DESCRIPTION : DIGIPOT
*GENERIC DESC: 128/256 , 10K DIGIPOT/RHEOSTAT
*DEVELOED BY: PDA
*REVISION HISTORY : 11/22/2012 - Initial Rev
*COPYRIGHT 1993, 2012 by Analog Devices , Inc.

* Digital control bits:	1-d[0],2-d[1],3-d[2],4-d[3],5-d[4],6-d[5],7-d[6],8-d[7]
* 9-independent control if this voltage is 1 then part is in inependent mode else it is pot mode
* Digi Pot terminals:	10-a,11-w,12-b
.subckt ad5140_10k   1 2 3 4 5 6 7 8 9 10 11 12 13
e3 14 0 poly(8) (8,0) (7,0) (6,0) (5,0) (4,0) (3,0) (2,0) (1,0) 0 128 64 32 16 8
+ 4 2 1
e4  15 0 poly(1) (14,0) 0 .00390625
g16 16 0 poly(2) (16,0) (13,0) 0 0 0 0 1
i16 16 0 dc -1A
e17 17 0 poly(2) (15,0) (16,0) 0 0 0 0 1
v1 18 0 dc 1v
g1 19 0 poly(2) (19,0) (17,18) 0 0 0 0 1
r1 18 19 1
g2 20 12 poly(2) (20,12) (19,0) 0 0 0 0 .0001
v2 21 0 0.5
g3 22 0 poly(2) (22,0) (21,17) 0 0 0 0 2
r2 21 22 1
e23 23 0 poly(2) (16,0) (9,0) 0 0 0 0 1


g4 24 20 poly(2) (24,20) (22,0) 0 0 0 0 .0004
g5 10 24 poly(2) (10,24) (25,23) 0 0 0 0 1000

v25 25 0 dc 1v

g6 10 26 poly(2) (10,26) (23,0) 0 0 0 0 1000
g7 26 20 poly(2) (26,20) (19,0) 0 0 0 0 .0001


r20 20 11 30
c20 11 0 30pf

rx1 1 0 10G
rx2 2 0 10G
rx3 3 0 10G
rx4 4 0 10G
rx5 5 0 10G
rx6 6 0 10G
rx7 7 0 10G
rx8 8 0 10G
rx9 9 0 10G
rx10 10 0 10G
rx12 12 0 10G
rx11 11 0 10G
rx13 13 0 10G
rx14 14 0 10G
rx15 15 0 10G
rx16 16 0 10G
rx17 17 0 10G
rx18 18 0 10G
rx19 19 0 10G
rx20 20 0 10G
rx21 21 0 10G
rx22 22 0 10G
rx23 23 0 10G
rx24 24 0 10G
rx25 25 0 10G
rx26 26 0 10G
.ends


